US07727985B2
The 3,3-dimethyl-4-oxo-piperidine-1-carboxylic acid tert-butyl ester thus prepared (450 mg, 1.97 mmol) was dissolved in methylene chloride (10 mL). Trifluoroacetic acid was added (305 uL) and the resulting solution stirred at room temperature 2 h. Additional trifluoroacetic acid was added (300 uL) and the reaction stirred at room temperature 3 days. The pale yellow solution was concentrated to afford an oily residue, which was triturated with ether. The solids were collected by suction filtration and dried in vacuo. 3,3-Dimethyl-piperidin-4-one was isolated and used as its trifluoroacetic acid salt (381 mg, 80%).

reactant | 3,3-dimethyl-4-oxo-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)(C)C | C12H21NO3
reactant | Trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 3,3-Dimethyl-piperidin-4-one | CC1(CNCCC1=O)C | C7H13NO
